US07109226B2
Synthesis of N-(Benzoxazol-2-yl)-N-3-(4-methoxyphenoxy)propyl-3-tert-butyldimethylsilyloxybenzylamine
N-3-(4-methoxyphenoxy)propyl-3-tert-butyldimethylsilyloxybenzylamine (1.9 g, 5.0 mmol) was dissolved in N,N-dimethylformamide (3.0 mL). Subsequently, N,N-diisopropylethylamine (768 mg, 5.9 mmol) was added dropwise thereto. To the solution, 2-chlorobenzoxazole (912 mg, 5.94 mmol) was added. The mixture was stirred for 15 minutes at room temperature, and then stirred overnight at 70° C. The resultant mixture was extracted with ethyl acetate, followed by washing the organic layer with brine, drying over anhydrous sodium sulfate, and concentration under reduced pressure. The resultant mixture was subjected to purification by silica gel column chromatography (n-hexane/ethyl acetate=10/1), whereby the target compound was obtained (1.9 g, 73%).

reactant | N-3-(4-methoxyphenoxy)propyl-3-tert-butyldimethylsilyloxybenzylamine | 5.0 mmol, 1.9 g | COC1=CC=C(OCCCNCC2=CC(=CC=C2)O[Si](C)(C)C(C)(C)C)C=C1 | C23H35NO3Si
reactant | N,N-diisopropylethylamine | 5.9 mmol, 768 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-chlorobenzoxazole | 5.94 mmol, 912 mg | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
product | N-(Benzoxazol-2-yl)-N-3-(4-methoxyphenoxy)propyl-3-tert-butyldimethylsilyloxybenzylamine | O1C(=NC2=C1C=CC=C2)N(CCCOC2=CC=C(C=C2)OC)CC2=CC(=CC=C2)O[Si](C)(C)C(C)(C)C | C30H38N2O4Si
